US04138397
6-[[(2,3-Dihydro-5-benzofuranyl)hydroxyacetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid
(2,3-Dihydro-5-benzofuranyl)hydroxyacetic acid (10 mmole), triethylamine (10 mmole) and bistrimethylsilylacetamide (BSA) (10 mmole) are added to 50 ml of tetrahydrofuran and refluxed for 2 hours. The reaction mixture is cooled to about -10° C. and 10 mmole of isobutylchloroformate is added dropwise. After 30 minutes at -10° C., 10 mmole of 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid in 50 ml of water-20 ml of tetrahydrofuran containing 10 mmole of triethylamine is added dropwise to the previously prepared solution which is at about -10° C. After the addition is complete, the temperature is allowed to rise to room temperature from -10° C. About 50 ml of saturated sodium bicarbonate and 100 ml of water are added to the reaction mixture which is then twice extracted with ether. The aqueous phase is layered with ethyl acetate and the pH is adjusted to 1.5 by the addition of hydrochloric acid. The ethyl acetate is separated from the aqueous phase, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | (2,3-Dihydro-5-benzofuranyl)hydroxyacetic acid | 10 mmole | O1CCC2=C1C=CC(=C2)C(C(=O)O)O | C10H10O4
reactant | bistrimethylsilylacetamide | 10 mmole | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | isobutylchloroformate | 10 mmole | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | 10 mmole | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mmole | O1CCCC1 | C4H8O
solvent | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
product | 6-[[(2,3-Dihydro-5-benzofuranyl)hydroxyacetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | O1CCC2=C1C=CC(=C2)C(C(=O)NC2C1SC(C(N1C2=O)C(=O)O)(C)C)O | C18H20N2O6S
